US05942532
A mixture of 1H-Benzimidazole-5-nitrile, 2-(4-hydroxyphenyl)- (2.6 g, 0.011 mol), potassium carbonate (4.0 g, 0.029 mol), and 4-fluorobenzonitrile (1.2 g, 0.0099 mol) in DMF (100 mL) was refluxed for 18 h. The mixture was then filtered (to remove the potassium carbonate) into an ice/water bath. The precipitate was collected and recrystallized from ethyl acetate to afford 0.7 g (21%) of 2-[4-(4-cyanophenoxy)phenyl]-1H-benzimidazole-5-carbonitrile.

reactant | 1H-Benzimidazole-5-nitrile | N1C=NC2=C1C=CC(=C2)C#N | C8H5N3
reactant | potassium carbonate | 0.029 mol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzonitrile | 0.0099 mol, 1.2 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-cyanophenoxy)phenyl]-1H-benzimidazole-5-carbonitrile | 0.7 g, 21% | C(#N)C1=CC=C(OC2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)C#N)C=C1 | C21H12N4O
